US07576062B2
At 0° C., N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (85 mg, 0.44 mmol) was added to a solution of (2E)-5-(tert-butoxycarbonylamino)-5-methylhex-2-enoic acid (113 mg, 0.44 mmol) and 1-hydroxy-7-azabenzotriazole (60 mg, 0.44 mmol) in dichloromethane (5 ml) and N,N-dimethylformamide (5 ml). The reaction mixture was stirred for 20 mm at 0° C. A solution of (2R)—N-[(1R)-1-benzyl-2-((3S)-3-((dimethylamino)methyl)piperidin-1-yl)-2-oxoethyl]-N-methyl-2-(methylamino)-3-(2-naphthyl)propionamide (228 mg, 0.44 mmol) in dichloromethane (10 ml) and ethyldiisopropylamine (0.07 ml, 0.44 mmol) were added successively. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (70 ml) and washed with a saturated aqueous solution of sodium hydrogen carbonate (70 ml). The aqueous phase was extracted with ethyl acetate (3×50 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (40 g), using dichlormethane/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 314 mg of (1-{(2E)-3-[N-((1R)-1-{N-[(1R)-1-benzyl-2-((3S)-3-((dimethylamino)methyl)piperidin-1-yl)-2-oxoethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylcarbamoyl]allyl}cyclobutyl)-carbamic acid tert-butyl ester.

reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.44 mmol, 85 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2E)-5-(tert-butoxycarbonylamino)-5-methylhex-2-enoic acid | 0.44 mmol, 113 mg | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | 1-hydroxy-7-azabenzotriazole | 0.44 mmol, 60 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | (2R)—N-[(1R)-1-benzyl-2-((3S)-3-((dimethylamino)methyl)piperidin-1-yl)-2-oxoethyl]-N-methyl-2-(methylamino)-3-(2-naphthyl)propionamide | 0.44 mmol, 228 mg | C(C1=CC=CC=C1)[C@H](C(=O)N1C[C@@H](CCC1)CN(C)C)N(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)C | C32H42N4O2
reactant | ethyldiisopropylamine | 0.44 mmol, 0.07 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | (1-{(2E)-3-[N-((1R)-1-{N-[(1R)-1-benzyl-2-((3S)-3-((dimethylamino)methyl)piperidin-1-yl)-2-oxoethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylcarbamoyl]allyl}cyclobutyl)-carbamic acid tert-butyl ester | 314 mg | C(C)(C)(C)OC(NC1(CCC1)C\C=C\C(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@@H](C(=O)N1C[C@@H](CCC1)CN(C)C)CC1=CC=CC=C1)=O)=O)=O | C45H61N5O5
